US04695639
In 200 ml of acetone was suspended 10 g (0.0341 mole) of methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate as obtained in Example 3. After a serial addition of 9.98 g (0.0512 mole) of t-butyl bromoacetate, 0.6 ml of water and 18.85 g of anhydrous potassium carbonate, the mixture was stirred at 40° C. for 2 hours followed by addition of 200 ml of water. The mixture was stirred at 30°-35° C. for about an hour, whereby the methylsulfonylethyl group was hydrolytically eliminated. Then, the ethyl acetate was added to the hydrolysis reaction mixture. The organic layer was extracted with water and the aqueous layers were combined and adjusted to pH 2 with 2N HCl. The resulting white crystalline precipitate was collected by filtration and dried to give 9.0 g of 2-(2-aminothiazol-4-yl)-(Z)-2-(t-butoxycarbonylmethoxyimino)acetic acid. (Yiled, 87.6%)

reactant | methylsulfonylethyl 2-(2-aminothiazol-4-yl)-(Z)-2-hydroxyiminoacetate | 0.0341 mole, 10 g | NC=1SC=C(N1)/C(/C(=O)OCCS(=O)(=O)C)=N/O | C8H11N3O5S2
reactant | t-butyl bromoacetate | 0.0512 mole, 9.98 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | 0.6 ml | O | H2O
reactant | potassium carbonate | 18.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-aminothiazol-4-yl)-(Z)-2-(t-butoxycarbonylmethoxyimino)acetic acid | 9.0 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C | C11H15N3O5S
